US06864396B2
A mixture of 24.6 grams of 7,14-dihydro-3,10-dimethylpentacene-5,12-dione in 250 mL of 2-methoxyethyl ether was stirred and flushed with nitrogen for 10 minutes. To this was added in small portions 16.5 grams of sodium borohydride and stirring was continued at room temperature overnight. To the reaction mixture was added slowly over 30 minutes 155 mL of methanol with the temperature maintained below 0° C. The resulting mixture was stirred for 1.5 hours at room temperature. To the mixture was added slowly 360 mL of glacial acetic acid over 10 minutes. The resulting mixture was heated to 60° C. for 1.5 hours. To the mixture was added 100 mL of concentrated hydrochloric acid. The resulting mixture was heated for one hour and cooled to room temperature. To the mixture was added 250 mL of water and stirring was continued for five minutes. The resulting solid was collected by filtration and washed with 3 L of water, 1 L of acetone, 1 L of tetrahydrofuran, and 1 L of acetone and dried to give 2,9-dimethylpentacene.

reactant | 7,14-dihydro-3,10-dimethylpentacene-5,12-dione | 24.6 grams | CC=1C=CC=2CC3=CC=4C(C5=CC(=CC=C5CC4C=C3C(C2C1)=O)C)=O | C24H18O2
solvent | 2-methoxyethyl ether | 250 mL | COCCOCCOC | C6H14O3
product | 2,9-dimethylpentacene | CC1=CC2=CC3=CC4=CC5=CC=C(C=C5C=C4C=C3C=C2C=C1)C | C24H18
